US07241793B2
5-(4-Chloro-phenyl)2-methyl-2H-pyrazol-3-ylamine
A solution of 3-(4-Chloro-phenyl)-3-oxo-propionitrile (1.8 g, 10 mmol) and N-Methylhydrazine (1 mL, excess) in EtOH (30 mL) was stirred to reflux 3 hours. After cooling the precipitate was filtered off, to give the title compound (950 mg, 4.6 mmol) as white crystals in a 46% yield.

reactant | 3-(4-Chloro-phenyl)-3-oxo-propionitrile | 10 mmol, 1.8 g | ClC1=CC=C(C=C1)C(CC#N)=O | C9H6ClNO
reactant | N-Methylhydrazine | 1 mL | CNN | CH6N2
solvent | EtOH | 30 mL | CCO | C2H6O
product | 5-(4-Chloro-phenyl)2-methyl-2H-pyrazol-3-ylamine | 4.6 mmol, 950 mg, 46% yield | ClC1=CC=C(C=C1)C=1C=C(N(N1)C)N | C10H10ClN3
